US08193228B2
4-(2,2-dimethylbut-3-en-1-yl)-1-trityl-1H-imidazole
Triethylamine (1.5 mL, 53 mmol) followed by of trityl chloride (9 g, 32 mmol) were added to a 0° C. solution of 4-(2,2-dimethylbut-3-en-1-yl)-1H-imidazole (4 g, 27 mmol) in methylene chloride (40 mL). After stirring at ambient temperature for 3 h, the reaction mixture was poured into saturated aqueous ammonium chloride and extracted with methylene chloride. The combined organic extracts were washed with brine, dried (magnesium sulfate), filtered and concentrated in vacuo. Chromatography over silica eluting with 10-40% ethyl acetate/hexane afforded the title compound.

reactant | Triethylamine | 53 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 32 mmol, 9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-(2,2-dimethylbut-3-en-1-yl)-1H-imidazole | 27 mmol, 4 g | CC(CC=1N=CNC1)(C=C)C | C9H14N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dimethylbut-3-en-1-yl)-1-trityl-1H-imidazole | CC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C=C)C | C28H28N2
